US07129246B2
(i) 2-Bromo-5-chloro isonicotinic acid
To a stirred solution of di-isopropylamine (16 ml) in anhydrous tetrahydrofuran (300 ml) at −5° C. was added, dropwise a solution of n-butyl lithium in hexane (2.5 molar, 44 ml) and the resulting solution was stirred for 30 minutes and was then cooled to −70° C. To the cooled solution was added a solution of 2-bromo-5-chloropyridine (19.2 g) in anhydrous tetrahydrofaran (50 ml) maintaining the internal temperature of the reaction below −65° C. The reaction was maintained at −70° C. for 15 minutes and then a steady stream of dried carbon dioxide was passed through the reaction mixture for 30 minutes. The reaction was allowed to warm to room temperature and was poured into a mixture of water (300 ml) and aqueous sodium hydroxide solution (2M, 30 ml). The mixture was extracted with ether and (2×100 ml) and the combined ethereal extracts were back extracted with aqueous sodium hydroxide solution (1M, 2×100 ml). The combined aqueous extracts were acidified to pH 1 with concentrated hydrochloric acid and the resulting solid filtered and dried under vacuum at 50° C. to afford the sub-titled compound as a white solid (14.1 g).

reactant | di-isopropylamine | 16 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-bromo-5-chloropyridine | 19.2 g | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium hydroxide | 2M, 30 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.5 molar, 44 ml | CCCCCC | C6H14
solvent | water | 300 ml | O | H2O
product | 2-Bromo-5-chloro isonicotinic acid | 14.1 g | BrC=1C=C(C(=O)O)C(=CN1)Cl | C6H3BrClNO2
